US06498170B2
(1-Benzhydryl-azetidin-3-yl)-[(2S)-3-(4-benzyloxy-phenoxy)-2-hydroxy-propyl]-carbamic acid tert-butyl ester
To a solution of (2S)-1-(1-Benzhydryl-azetidin-3-ylamino)-3-(4-benzyloxy-phenoxy)-propan-2-ol (0.49 g, 1 mmol) in dichloromethane (5 ml) was added di-tert-butyldicarbonate (0.26 g, 1.2 mmol), and the mixture was stirred at room temperature for 2 h. The solvent was then evaporated, and the residue was dissolved in hexanes. The solution was passed through a pad of silica gel, first eluting with hexanes, and then with a mixture of ethyl acetate-hexanes (2:1). The latter eluent was evaporated to give 0.59 g of a white solid; m.p. 95-96 ° C.; MS (ES) m/z 595.3 (MH+); HRMS (Cl) Calcd. for C37H43N2O5 (MH+): 595.3172, Found: 595.3181.

reactant | (2S)-1-(1-Benzhydryl-azetidin-3-ylamino)-3-(4-benzyloxy-phenoxy)-propan-2-ol | 1 mmol, 0.49 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)NC[C@@H](COC1=CC=C(C=C1)OCC1=CC=CC=C1)O | C32H34N2O3
reactant | di-tert-butyldicarbonate | 1.2 mmol, 0.26 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (1-Benzhydryl-azetidin-3-yl)-[(2S)-3-(4-benzyloxy-phenoxy)-2-hydroxy-propyl]-carbamic acid tert-butyl ester | 0.59 g | C(C)(C)(C)OC(N(C[C@@H](COC1=CC=C(C=C1)OCC1=CC=CC=C1)O)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H42N2O5
